US04048311
1-(2-Sulfoethyl)tetrazole-5-thiol di-cyclohexylamine salt was dissolved in water and treated with Amberlite IR-120H resin to give 1-(2-sulfoethyl)tetrazole-5-thiol.

reactant | 1-(2-Sulfoethyl)tetrazole-5-thiol di-cyclohexylamine salt | C1(CCCCC1)NC1CCCCC1.S(=O)(=O)(O)CCN1N=NN=C1S
solvent | water | O | H2O
product | 1-(2-sulfoethyl)tetrazole-5-thiol | S(=O)(=O)(O)CCN1N=NN=C1S | C3H6N4O3S2
